US09163011B2
i) [Bis-(4-methoxy-phenyl)-phenyl-methyl]-[(R)-4-(6-bromo-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-(2-methoxy-ethyl)-5,6-dihydro-4H-[1,3]oxazin-2-yl]-amine
To a solution of (R)-4-(6-bromo-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-(2-methoxy-ethyl)-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (200 mg, 0.543 mmol) and triethylamine (110 mg, 1.087 mmol) in dichloromethane (5.4 ml) was added solid 4,4′-dimethoxytrityl chloride (202 mg, 0.598 mmol) under argon atmosphere. The green solution was stirred at rt for 16 hrs and was then evaporated in vacuo. The crude product was taken up with ethyl acetate and washed with aqueous citric acid, aqueous sodium bicarbonate solution, water and brine. The organic phase was dried over sodium sulfate, filtered and evaporated. The crude product (380 mg) was chromatographed over silica gel (Redisep column 12 g, cyclohexane/ethyl acetate 8:2) to give the title compound as a colourless foam. 339 mg (93% yield).

reactant | (R)-4-(6-bromo-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-(2-methoxy-ethyl)-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | 0.543 mmol, 200 mg | BrC1=CC=C(C(=N1)[C@]1(N=C(OCC1(F)F)N)CCOC)F | C12H13BrF3N3O2
reactant | triethylamine | 1.087 mmol, 110 mg | C(C)N(CC)CC | C6H15N
reactant | 4,4′-dimethoxytrityl chloride | 0.598 mmol, 202 mg | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)Cl)C=C1 | C21H19ClO2
solvent | dichloromethane | 5.4 ml | ClCCl | CH2Cl2
product | [Bis-(4-methoxy-phenyl)-phenyl-methyl]-[(R)-4-(6-bromo-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-(2-methoxy-ethyl)-5,6-dihydro-4H-[1,3]oxazin-2-yl]-amine | 93% yield | COC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)NC=1OCC([C@@](N1)(CCOC)C1=NC(=CC=C1F)Br)(F)F | C33H31BrF3N3O4
